* C:\Users\steph\ec445_neuroguard\ECU_monitor\ECU_monitor.asc
* Generated by LTspice 24.1.10 for Windows.
V§modulator modulator 0 PULSE(0 1 1ms 1u 1u 1ms 5ms)
V§carrier carrier 0 SINE(0 2000 500k)
BV_esu esu_out 0 V=V(carrier) * V(modulator)
C1 esu_out divider_out 10p
C2 divider_out 0 3.9n
R1 divider_out 0 1Meg
D1 divider_out envelope 1N5817
R2 envelope 0 200k
C3 envelope 0 1n
V1 N002 0 3.3
R6 N003 N002 10k
R3 0 N003 1k
R4 N002 comp_out 10k
X§U1 envelope N003 N002 0 comp_out LM393A ;§pnba 1)2)3)4)5
V§carrier5 carrier5 NC_01 SINE(2.5 5 500k)
BV_esu5 esu5_out 0 V=V(carrier5) * V(modulator)
R5 N001 0 1Meg
C4 N001 esu5_out 2.2n
.model D D
.lib C:\Users\steph\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 20ms
.lib D:\Downloads\slcj017\LM393A.5_1
.backanno
.end
