* D:\ec445_neuroguard\ECU_monitor_V2\ECU_monitor_V2.asc
* Generated by LTspice 26.0.1 for Windows.
V§modulator modulator 0 PULSE(0 1 1ms 1u 1u 1ms 5ms)
V§carrier carrier 0 SINE(925 925 357k)
BV_esu esu_out 0 V=V(carrier) * V(modulator)
C1 esu_out divider_out 10p
C2 divider_out 0 3.9n
R1 divider_out 0 10k
D1 divider_out envelope 1N5817
R2 envelope 0 5.6k
C3 envelope 0 1n
V1 N006 0 5
R6 N007 N006 47k
R3 0 N007 3k
R4 N006 comp_out 10k
X§U1 envelope N007 N006 0 comp_out LM393A ;§pnba 1)2)3)4)5
V§carrier5 carrier5 NC_01 SINE(2.5 2.5 357k)
BV_esu5 esu5_out 0 V=V(carrier5) * V(modulator)
R5 N014 0 10k
C4 N014 esu5_out 2.2n
V§modulator_fast modulator_fast 0 PULSE(0 1 1ms 1u 1u 8u 40u)
X§U2 0 N002 N004 N001 N005 N002 N003 N001 NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
C5 N005 0 10n
R7 N001 N003 15k
R8 N003 N002 130k
D2 N003 N002 1N5817
R9 N004 pulse_0.1V 2k
R10 pulse_0.1V 0 1k
M1 pulse_0.1V N008 Output Output 2N7002
C6 N002 0 0.01µ
R12 envelope comp_out 500k
X§U3 MP_02 N008 0 N011 NC_03 N001 NC_04 LTC1157 ;§pnba )G1)GND)IN1)IN2)Vs)G2
V2 N001 0 5
C7 N001 0 100µF
C8 N006 0 100µF
X§U4 Output N010 N009 0 N012 LM393A ;§pnba 1)2)3)4)5
V3 N009 0 5
R11 N010 N009 5k
R13 0 N010 1k
R14 N009 N012 1k
R15 N013 N012 43k
R16 0 N013 1k
Rload N013 0 10k
D3 0 Output 1N5817
R17 N008 0 100k
A1 comp_out 0 0 0 0 N011 0 0 BUF Vhigh=5 Vlow=0 Ref=2.5
.model D D
.lib C:\Users\steph\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\steph\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 20ms
* Library below included based on ModelFile attribute of instance X§U1, X§U4 (D:\ec445_neuroguard\ECU_monitor_V2\LM393A.asy)
.lib D:\Downloads\slcj017\LM393A.5_1
* Library below included based on ModelFile attribute of instance X§U3 (C:\Users\steph\AppData\Local\LTspice\lib\sym\PowerProducts\LTC1157.asy)
.lib LTC1157.sub
* Library below included based on ModelFile attribute of instance X§U2 (C:\Users\steph\AppData\Local\LTspice\lib\sym\Misc\NE555.asy)
.lib NE555.sub
.backanno
.end
